data/mechanisms/records/IMS8-EQ8.65c.json
{"mechanism_id": "IMS8-EQ8.65c", "species": [{"species_id": "cycloheptanone_molecular_ion", "mapped_smiles": "[O+:1]=[C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH:8]1[1H:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[O+:1]#[C:2][CH:8]([1H:9])[CH2:7][CH2:6][CH2:5][CH2:4][CH2:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "rearranged_alpha_acyl_radical_ion", "mapped_smiles": "[O+:1]#[C:2][CH:8][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3][1H:9]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cycloheptanone_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["rearranged_alpha_acyl_radical_ion"]}], "steps": [{"step_id": "step_alpha_cleavage_ring_opening", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_hydrogen_rearrangement", "from_state": "state_distonic", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "evidence_step_alpha_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 187, "equation": "8.65", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s) on the rightmost (seven-membered ring) structure of Equation 8.65; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 starts at the printed '+.' on the oxygen (the C=O is drawn intact, so the odd electron is localized on O, convention B) and its barb points into the C(2)-O(1) bond; drawn arc 2 has its tail on the ring bond C(2)-C(3) - the bond joining the carbonyl carbon to the alpha carbon that carries the R substituent - and its barb points into that same C-O bond, which therefore rises from double to triple (acylium). The undrawn move 3 carries the second electron of the cleaved C(2)-C(3) bond onto C(3); the book does not draw that hook, it simply prints the resulting radical dot on that carbon in the next structure. Because the carbonyl carbon is IN the ring, this alpha cleavage only OPENS the ring - no mass is lost yet - giving the distonic acylium/alkyl radical ion the page draws in the second row. The page draws an equilibrium (a down and an up arrow), hence reversible=true. Map numbers: 1 = the carbonyl O, 2 = the carbonyl C, 3 = the alpha carbon that bears the R substituent and is cleaved off the carbonyl carbon, 4, 5, 6 and 7 = the remaining ring CH2 groups, 8 = the other alpha carbon (the one on which the book draws an explicit H in the next structure), 9 = that drawn hydrogen. With R = H there is no side-chain carbon, so the substrate is plain cycloheptanone."}, {"evidence_id": "evidence_step_hydrogen_rearrangement", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 187, "equation": "8.65", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s) on the second-row (ring-opened) structure; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 has its tail on the explicitly printed C(8)-H(9) sigma bond (the book writes that H out, on the carbon next to the acylium) and its barb points to the gap between that H and the radical carbon, i.e. into the FORMING C(3)-H(9) bond; drawn arc 2 has its tail on the radical dot printed on C(3) and its barb points to the same gap. The two barbs meet there, which is exactly the two electrons the new C-H bond needs. The undrawn move 3 carries the second electron of the broken C(8)-H(9) bond onto C(8) - that is where the book prints the radical dot in the common bottom structure. Net effect: the hydrogen hops from the carbon alpha to the acylium onto the former radical carbon and the unpaired electron migrates the other way, ending up alpha to C#O+ where it is stabilized as the ionized-ketene resonance form (the page's text: hydrogen rearrangement 'forming very stable (Table 8.3) enamine or ketene intermediates'). The book draws only the localized acyl-radical form, which is what is encoded (convention C). In this seven-membered-ring case the radical carbon C(3) is the 7th carbon counted from the acylium carbon - the carbon that also carries R' - which is exactly the position of the UPPERMOST of the three explicit hydrogens the book prints in the common bottom structure - consistent with it being the carbon that also carries R'. CONFIRMED at full scan resolution (2026-07-26): tracing the shared bottom structure from the acylium carbon C1, the skeleton runs C1 -> C2(bears the radical dot) -> C3 -> C4 -> C5 -> C6 -> C7(bears R'), and the three explicit hydrogens bond to C7 (UPPER H, the one drawn on the R'-bearing carbon), C6 (MIDDLE H) and C5 (LOWER H) respectively. An earlier version of this note said 'the lowest' H; that was wrong and contradicted its own identification of this carbon as the R'-bearing one - the lowest H sits on C5 (the five-membered-ring case). Equilibrium arrows are drawn here too, hence reversible=true."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 112.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_112", "species_id": "rearranged_alpha_acyl_radical_ion", "step_id": "step_hydrogen_rearrangement", "observed_mz": 112.0883, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
